US07560467B2
4-(3,4-Difluoro-phenyl)-6-methyl-2-oxo-1,2,3,4-tetrahydro-pyrimidine-5-carboxylic acid [3-(4-fluoro-phenylamino)-1H-indazol-5-yl]-amide
The titled compound was prepared following the procedure of Example 175 using 4-(3,4-Difluoro-phenyl)-6-methyl-2-oxo-1,2,3,4-tetrahydro-pyrimidine-5-carboxylic acid, N3-(4-fluoro-phenyl)-1H-indazole-3,5-diamine, PyBroP and diisopropylethylamine in methylene chloride. MS (ESI) m/z=493 [M+H]+.

reactant | 4-(3,4-Difluoro-phenyl)-6-methyl-2-oxo-1,2,3,4-tetrahydro-pyrimidine-5-carboxylic acid | FC=1C=C(C=CC1F)C1NC(NC(=C1C(=O)O)C)=O | C12H10F2N2O3
reactant | N3-(4-fluoro-phenyl)-1H-indazole-3,5-diamine | FC1=CC=C(C=C1)NC1=NNC2=CC=C(C=C12)N | C13H11FN4
reactant | PyBroP | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)Br.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-(3,4-Difluoro-phenyl)-6-methyl-2-oxo-1,2,3,4-tetrahydro-pyrimidine-5-carboxylic acid [3-(4-fluoro-phenylamino)-1H-indazol-5-yl]-amide | FC1=CC=C(C=C1)NC1=NNC2=CC=C(C=C12)NC(=O)C=1C(NC(NC1C)=O)C1=CC(=C(C=C1)F)F | C25H19F3N6O2
